US06750230B2
4-Chloro-3,5-heptanedione
Chlorotrimethylsilane (29.7 ml, 0.234 mol) was added dropwise to a stirred pale yellow solution of tetrabutylammonium bromide (1.26 g, 3.9 mmol) in dry acetonitrile (116 ml) at room temperature under nitrogen. The resulting solution was cooled in ice and 3,5-heptanedione (10.6 ml, 78.0 mmol) and then dry dimethylsulphoxide (16.6 ml, 0.234 mol) were added dropwise over 5 minutes producing a yellow solution which was allowed to warm slowly to room temperature, with stirring, over 4 hours. The mixture was diluted with water (1 litre), stirred for 10 min and then extracted with ether (1×500 ml, 2×250 ml). The combined ether layers were dried over magnesium sulphate, filtered and concentrated under reduced pressure to leave a yellow oil. The crude product was purified by distillation under reduced pressure to afford the title compound (5.5 g) as a pale yellow oil, b.p. 102-105° C./54 mmHg containing ca. 10% 4,4-dichloro-3,5-heptanedione as estimated by microanalysis.

reactant | Chlorotrimethylsilane | 0.234 mol, 29.7 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | 3,5-heptanedione | 78.0 mmol, 10.6 ml | CCC(CC(CC)=O)=O | C7H12O2
reactant | dimethylsulphoxide | 0.234 mol, 16.6 ml | CS(=O)C | C2H6OS
catalyst | tetrabutylammonium bromide | 3.9 mmol, 1.26 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 116 ml | C(C)#N | C2H3N
solvent | water | 1 litre | O | H2O
product | 4-Chloro-3,5-heptanedione | 5.5 g | ClC(C(CC)=O)C(CC)=O | C7H11ClO2
